US07262185B2
5-nitro-2-[(2-pyridinylmethyl)sulfanyl]pyridine (6.0 g) was dissolved in acetic acid (60 ml), reduced iron (18 g) was added to the mixture, and the mixture was stirred for 240 hours at room temperature. The mixture was filtered with. Celite, and washed with ethyl acetate. The solvent was removed under reduced pressure, and the obtained residue was purified by silica gel column chromatography, to give 6-[(2-pyridinylmethyl)sulfanyl]-3-pyridineamine (1.83 g).

reactant | 5-nitro-2-[(2-pyridinylmethyl)sulfanyl]pyridine | 6.0 g | [N+](=O)([O-])C=1C=CC(=NC1)SCC1=NC=CC=C1 | C11H9N3O2S
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 6-[(2-pyridinylmethyl)sulfanyl]-3-pyridineamine | 1.83 g | N1=C(C=CC=C1)CSC1=CC=C(C=N1)N | C11H11N3S
